US08614327B2
To N-(4-bromo-2-methyl-phenyl)-4-oxo-1H-quinoline-3-carboxamide (50 mg, 0.14 mmol), cyclohexen-1-ylboronic acid (35 mg, 0.28), and Pd(dppf)C12-DCM (11 mg, 0.01 mmol) was added Na2CO3 (980 μL of 2 M, 1.96 mmol) and acetonitrile (2 mL). The reaction mixture was heated under microwave irradiation for 10 min at 150° C. under a N2 atmosphere. The reaction mixture was diluted with ethyl acetate, washed with 50% saturated sodium bicarbonate solution (2×20 mL), water, and brine. The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel column chromatography (30-100% ethyl acetate/hexane) to obtain N-(4-cyclohexen-1-yl-2-methyl-phenyl)-4-oxo-1H-quinoline-3-carboxamide as a white solid (35 mg, 70%). N-(4-cyclohexen-1-yl-2-methyl-phenyl)-4-oxo-1H-quinoline-3-carboxamide (35 mg, 0.10 mmol) was stirred vigorously with 10% Pd/C (wet) (30 mg, 0.01 mmol) under an atmosphere of H2 for 30 min at 50° C. The reaction mixture was filtered, concentrated in vacuo, and purified by HPLC (30-95% CH3CN/5 mM HCl) to yield N-(4-cyclohexyl-2-methylphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide (20 mg, 57% yield). LC/MS m/z 361.4 [M+H]+. 1H NMR (400.0 MHz, DMSO-d6) δ 12.94 (d, J=6.0 Hz, 1H), 12.24 (s, 1H), 8.89 (d, J=6.5 Hz, 1H), 8.35 (d, J=7.7 Hz, 1H), 8.22 (d, J=8.3 Hz, 1H), 7.82 (t, J=7.6 Hz, 1H), 7.76 (d, J=7.8 Hz, 1H), 7.55-7.51 (m, J=7.6 Hz, 1H), 7.11 (s, 1H), 7.05 (d, J=8.4 Hz, 1H), 2.45 (m, 1H), 2.38 (s, 3H), 1.80-1.69 (m, 5H), 1.42-1.21 (m, 5H).

reactant | N-(4-bromo-2-methyl-phenyl)-4-oxo-1H-quinoline-3-carboxamide | 0.14 mmol, 50 mg | BrC1=CC(=C(C=C1)NC(=O)C1=CNC2=CC=CC=C2C1=O)C | C17H13BrN2O2
reactant | cyclohexen-1-ylboronic acid | 35 mg | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | Na2CO3 | 1.96 mmol, 2 M, 980 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-cyclohexen-1-yl-2-methyl-phenyl)-4-oxo-1H-quinoline-3-carboxamide | 35 mg, 70% | C1(=CCCCC1)C1=CC(=C(C=C1)NC(=O)C1=CNC2=CC=CC=C2C1=O)C | C23H22N2O2
